US05872136
Step D: 1-(3-Phenyl-2-chloropyrid-6-ylmethyl)-5-(4-cyanobenzyl)imidazole hydrochloride salt
To 1-trityl-4-(4-Cyanobenzyl)-imidazole (88.4 mg, 0.208 mmol) in acetonitrile (1 mL) was added 3-phenyl-2-chloro-6-bromomethylpyridine (53.5 mg, 0.189 mmol) and the mixture heated at 65° C. for 16 hours. The residue was dissolved in methanol (3 ml) and heated at reflux for 2 hours, cooled and evaporated to dryness. The residue was partitioned between sat. aq. Na2CO3 solution and CH2Cl2. The organic layer was dried, (MgSO4) and the solvent evaporated in vacuo. The residue was chromatographed (Silica gel, 2.5-3% MeOH in CH2Cl2) to afford the free base which was converted to the HCl salt by treatment with one equivalent of HCl in aqueous acetonitrile. Evaporation of solvent in vacuo afforded the title compound as a white powder.

reactant | 1-trityl-4-(4-Cyanobenzyl)-imidazole | 0.208 mmol, 88.4 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC1=CC=C(C=C1)C#N | C30H23N3
reactant | 3-phenyl-2-chloro-6-bromomethylpyridine | 0.189 mmol, 53.5 mg | C1(=CC=CC=C1)C=1C(=NC(=CC1)CBr)Cl | C12H9BrClN
reactant | HCl | Cl | ClH
reactant | HCl | one equivalent | Cl | ClH
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | methanol | 3 ml | CO | CH4O
product | 1-(3-Phenyl-2-chloropyrid-6-ylmethyl)-5-(4-cyanobenzyl)imidazole hydrochloride salt | Cl.C1(=CC=CC=C1)C=1C(=NC(=CC1)CN1C=NC=C1CC1=CC=C(C=C1)C#N)Cl | InChI=1S/C23H17ClN4.ClH/c24-23-22(19-4-2-1-3-5-19)11-10-20(27-23)15-28-16-26-14-21(28)12-17-6-8-18(13-25)9-7-17;/h1-11,14,16H,12,15H2;1H
